US03947374
Preparation of 2,4-Dichloro-6-Methoxy-s-Triazine
To 200 ml. of methanol and 25 ml. of water were added 33.6 g. (0.4 mole) of sodium bicarbonate and 36.8 g. (0.2 mole) of cyanuric chloride. This mixture was stirred at 30°C. for 30 minutes until the evolution of carbon dioxide had nearly ceased, and water was then added. The crystalline solid which separated was filtered, washed with water, and dried in a vacuum desiccator. The yield of crude 2,4-dichloro-6-methoxy-s-triazine was 10.5 g. (58% yield), m.p. 87°-89°C. After recyrstallization of the product from heptane, the m.p. was 88°-90°C.

reactant | methanol | CO | CH4O
reactant | sodium bicarbonate | 0.4 mole | C([O-])(O)=O.[Na+]
reactant | cyanuric chloride | 0.2 mole | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
product | 2,4-Dichloro-6-Methoxy-s-Triazine | 58% yield | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
